### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/CliffordAlgebra): isomorphism for direct sums of vector spaces

### PR DESCRIPTION
**Pull request by eric-wieser**
The main result here is `CliffordAlgebra (Q₁.prod Q₂) ≃ₐ[R] (evenOdd Q₁ ᵍ⊗[R] evenOdd Q₂)`.

The proof of `map_inl_mul_map_inr_of_mem_evenOdd` is rather ugly here, but I suspect to pull off an `ext`-based proof, we need a bunch of missing infrastructure:
* Morphisms of graded algebras
* The tensor product of graded algebras *as a graded algebra*

---

- [x] depends on: #9141
- [x] depends on: #7394
- [x] depends on: #7664
- [x] depends on: #7723

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 1]
```diff
@@ -0,0 +1,141 @@
...
+        | hadd _ _ _ _ _ ihx ihy =>
+          rw [map_add, add_mul, mul_add, ihx, ihy, smul_add]
+        | hmul m₂ hm₂ i x₂ _hx₂ ih₂ =>
+          obtain ⟨v₂, rfl⟩ := hm₂
+          -- this is the second interesting goal
+          rw [map_mul, map_apply_ι, QuadraticForm.Isometry.inr_apply, Nat.cast_succ, ← mul_assoc,
+            ι_mul_ι_comm_of_isOrtho (.inl_inr _ _), neg_mul, mul_assoc, ih₂, mul_smul_comm,
+            ← mul_assoc, ← Units.neg_smul, uzpow_add, uzpow_one, mul_neg_one]
+
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:78]: I think it's probably worth singling out these corollaries:
```suggestion

variable (m₁ : CliffordAlgebra Q₁) (m₂ : CliffordAlgebra Q₂)

theorem Commute_map_inl_inr_of_mem_evenOdd_zero_left {i : ZMod 2}
     (hm₁ : m₁ ∈ evenOdd Q₁ 0) (hm₂ : m₂ ∈ evenOdd Q₂ i) :
    Commute (map (.inl Q₁ Q₂) m₁) (map (.inr Q₁ Q₂) m₂) :=
  show _ * _ = _ * _ from by simp [map_inl_mul_map_inr_of_mem_evenOdd _ _ _ hm₁ _ hm₂]

theorem Commute_map_inl_inr_of_mem_evenOdd_zero_right {i : ZMod 2}
    (hm₁ : m₁ ∈ evenOdd Q₁ i) (hm₂ : m₂ ∈ evenOdd Q₂ 0) :
    Commute (map (.inl Q₁ Q₂) m₁) (map (.inr Q₁ Q₂) m₂) :=
  show _ * _ = _ * _ from by simp [map_inl_mul_map_inr_of_mem_evenOdd _ _ _ hm₁ _ hm₂]

theorem map_inl_mul_map_inr_eq_neg_of_mem_evenOdd_one
    (hm₁ : m₁ ∈ evenOdd Q₁ 1) (hm₂ : m₂ ∈ evenOdd Q₂ 1) :
    (map (.inl Q₁ Q₂) m₁) * (map (.inr Q₁ Q₂) m₂) =
    - (map (.inr Q₁ Q₂) m₂) * (map (.inl Q₁ Q₂) m₁) := by
  simp [map_inl_mul_map_inr_of_mem_evenOdd _ _ _ hm₁ _ hm₂]

```

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 2]
```diff
@@ -0,0 +1,141 @@
...
+/-!
+# Clifford algebras of a direct sum of two vector spaces
+
+We show that the clifford algebra of a direct sum is the graded tensor product of the clifford
+algebras, as `CliffordAlgebra.equivProd`.
+
+## Main definitions:
+
+* `CliffordAlgebra.equivProd : CliffordAlgebra (Q₁.prod Q₂) ≃ₐ[R] (evenOdd Q₁ ᵍ⊗[R] evenOdd Q₂)`
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:19]:
```suggestion

## TODO:

Introduce morphisms and equivalences of graded algebas and upgrade `CliffordAlgebra.equivProd` to a
graded algebra equivalence.

```

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 3]
```diff
@@ -0,0 +1,141 @@
...
+      dsimp only [LinearMap.coprod_apply, LinearMap.coe_comp, Function.comp_apply,
+        AlgHom.toLinearMap_apply, QuadraticForm.prod_apply, Submodule.coeSubtype,
+        GradedTensorProduct.includeLeft_apply, GradedTensorProduct.includeRight_apply]
+      simp only [map_add, add_mul, mul_add, GradedTensorProduct.algebraMap_def]
+      rw [GradedTensorProduct.tmul_one_mul_one_tmul, GradedTensorProduct.tmul_one_mul_coe_tmul,
+        GradedTensorProduct.tmul_coe_mul_one_tmul, GradedTensorProduct.tmul_coe_mul_coe_tmul]
+      dsimp
+      simp_rw [one_mul, uzpow_one, Units.neg_smul, one_smul]
+      rw [ι_sq_scalar, ι_sq_scalar, mul_one]
+      simp_rw [← GradedTensorProduct.algebraMap_def, ← GradedTensorProduct.algebraMap_def']
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:97]: How about:
```suggestion
      simp_rw [LinearMap.coprod_apply, LinearMap.coe_comp, Function.comp_apply,
        AlgHom.toLinearMap_apply, QuadraticForm.prod_apply, Submodule.coeSubtype,
        GradedTensorProduct.includeLeft_apply, GradedTensorProduct.includeRight_apply, map_add,
        add_mul, mul_add, GradedTensorProduct.algebraMap_def,
        GradedTensorProduct.tmul_one_mul_one_tmul, GradedTensorProduct.tmul_one_mul_coe_tmul,
        GradedTensorProduct.tmul_coe_mul_one_tmul, GradedTensorProduct.tmul_coe_mul_coe_tmul,
        LinearMap.codRestrict_apply, one_mul, uzpow_one, Units.neg_smul, one_smul, ι_sq_scalar,
        mul_one, ← GradedTensorProduct.algebraMap_def, ← GradedTensorProduct.algebraMap_def']
```
(presumably previously not possible because of now extinct shortcomings of `simp`)

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+  rw [toProd, GradedTensorProduct.lift_tmul, map_one, mul_one, map_apply_ι,
+    QuadraticForm.Isometry.inl_apply]
+
+@[simp]
+lemma toProd_one_tmul_ι (m₂ : M₂) : toProd Q₁ Q₂ (1 ᵍ⊗ₜ ι _ m₂) = ι _ (0, m₂) := by
+  rw [toProd, GradedTensorProduct.lift_tmul, map_one, one_mul, map_apply_ι,
+    QuadraticForm.Isometry.inr_apply]
+
+lemma toProd_comp_ofProd : (toProd Q₁ Q₂).comp (ofProd Q₁ Q₂) = AlgHom.id _ _ := by
+  ext m₁ <;> dsimp
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:124]: Nitpick: we have `m₁ : M₂` in the second goal.
```suggestion
  ext m <;> dsimp
```
Also: shouldn't we squeeze that `dsimp`?

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 5]
```diff
@@ -0,0 +1,141 @@
...
+Authors: Eric Wieser
+-/
+import Mathlib.LinearAlgebra.CliffordAlgebra.Grading
+import Mathlib.LinearAlgebra.TensorProduct.Graded.Internal
+import Mathlib.LinearAlgebra.QuadraticForm.Prod
+
+/-!
+# Clifford algebras of a direct sum of two vector spaces
+
+We show that the clifford algebra of a direct sum is the graded tensor product of the clifford
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:13]: I prefer
```suggestion
We show that the Clifford algebra of a direct sum is the graded tensor product of the Clifford
```
but I don't insist

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 6]
```diff
@@ -0,0 +1,141 @@
...
+  · rw [ofProd_ι_mk, map_add, toProd_one_tmul_ι, toProd_ι_tmul_one, ← Prod.zero_eq_mk,
+      LinearMap.map_zero, add_zero]
+  · rw [ofProd_ι_mk, map_add, toProd_one_tmul_ι, toProd_ι_tmul_one, ← Prod.zero_eq_mk,
+      LinearMap.map_zero, zero_add]
+
+lemma ofProd_comp_toProd : (ofProd Q₁ Q₂).comp (toProd Q₁ Q₂) = AlgHom.id _ _ := by
+  ext <;> (dsimp; simp)
+
+/-- The clifford algebra over an orthogonal direct sum of quadratic vector spaces is isomorphic
+as an algebra to the graded tensor product of the clifford algebras of each space.
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:134]: as above
```suggestion
/-- The Clifford algebra over an orthogonal direct sum of quadratic vector spaces is isomorphic
as an algebra to the graded tensor product of the Clifford algebras of each space.
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean [hunk 7]
```diff
@@ -0,0 +1,169 @@
...
+
+variable {Q₁ Q₂ Qₙ}
+variable (f₁ : Q₁ →qᵢ Qₙ) (f₂ : Q₂ →qᵢ Qₙ) (hf : ∀ x y, Qₙ.IsOrtho (f₁ x) (f₂ y))
+variable (m₁ : CliffordAlgebra Q₁) (m₂ : CliffordAlgebra Q₂)
+
+/-- If `m₁` and `m₂` are both homogenous,
+and the quadratic spaces `Q₁` and `Q₂` map into
+orthogonal subspaces of `Qₙ` (for instance, when `Qₙ = Q₁.prod Q₂`),
+then the product of the embedding in `CliffordAlgebra Q` commutes up to a sign factor. -/
+nonrec theorem map_mul_map_of_isOrtho_of_mem_evenOdd
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:50]: Weirdly, after lifting things to `variable`, I now have to use `nonrec` here to avoid an error later on!

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean:108]: I ended up generalizing the statement away from `inl` and `inr`, but added analogous versions of your lemmas.

Perhaps in future we needed a `GradedCommute` helper to handle this family of lemmas automatically...

File: Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/CliffordAlgebra/Prod.lean]: Sure, why not! I think I was trying to structure the proof a bit more, but upon re-reading I can't see what I was going for anyway.

**Comment by eric-wieser** [comment]
Thanks for the review @ocfnash!

bors merge
